* C:\Studia\ELA2\Projekt\LTSpice\Analog_1\Analog_1.asc
V1 IN 0 10 Rser=100m
XU1 MP_01 OUT MP_02 N001 0 MP_03 MP_04 IN MP_05 IN LT3012
C1 IN 0 1.03µ Rser=6m Lser=0.6n
R1 OUT N001 750k
R2 N001 0 249k
C2 OUT 0 3.53µ Rser=9m Lser=.2n
I1 OUT 0 {Iwy} load
.tran 8m startup
.meas Pin AVG -V(IN)*I(V1) FROM 7m
.meas Pout AVG V(OUT)*I(I1) FROM 7m
.meas Eff param (Pout/Pin)*100 FROM 7m
.meas Vout_avg AVG V(OUT) FROM 7m
.meas Vout_pp PP V(OUT)*1000 FROM 7m
.meas Vin_pp PP V(IN)*1000 FROM 7m
* 1.5u
* 4.7u
.step param Iwy 0 .25 .025
.lib LT3012.lib
.backanno
.end
