* C:\Studia\ELA2\Projekt\LTSpice\Digital\buck.asc
C1 N001 0 1µ Rser=5m Lser=0.2n
V1 IN 0 10 Rser=100m
L1 N003 OUT flux={3.3u*13.5A}*tanh(x/{13.5A}) Rser=0.0075
C3 N002 N003 .1µ Rser=30m Lser=0.2n
R2 OUT N005 1Meg
R3 N005 0 243k
C5 OUT N005 4.7p Rser=2m Lser=0.2n
C6 IN 0 6.88µ Rser=2.5m Lser=0.3n
C7 IN 0 1.03µ Rser=6m Lser=0.6n
C8 IN 0 1.03µ Rser=6m Lser=0.6n
C2 N004 0 10n Rser=250m Lser=0.3n
XU1 OUT N001 N002 IN IN 0 IN N003 N006 0 N004 0 0 N005 0 LT8640
I1 OUT 0 5 load
R1 N006 0 41.2k
C10 OUT 0 43.6µ Rser=350m Lser=3n
C4 OUT 0 43.6µ Rser=350m Lser=3n
C9 OUT 0 1.27µ Rser=5m Lser=0.6n
.tran 8m startup
.meas Pin AVG -V(IN)*I(V1) FROM 7m
.meas Pout AVG V(OUT)*I(I1) FROM 7m
.meas Eff param (Pout/Pin)*100 FROM 7m
.meas Vout_avg AVG V(OUT) FROM 7m
.meas Vout_pp PP V(OUT)*1000 FROM 7m
.meas Vin_pp PP V(IN)*1000 FROM 7m
* 10u
* 47u
* 1.5u
* 1.5u
* 1.5u
.lib LT8640.sub
.backanno
.end
